US04902686
Ethyl 5-phenyl-imidazo(1,5-a)quinoline-3-carboxylate was prepared from 1,2-dihydro-2-oxo-4-phenyl-quinoline and ethyl isocyanoacetate. M.p. 176°-185° C.

reactant | 1,2-dihydro-2-oxo-4-phenyl-quinoline | O=C1NC2=CC=CC=C2C(=C1)C1=CC=CC=C1 | C15H11NO
reactant | ethyl isocyanoacetate | [N+](#[C-])CC(=O)OCC | C5H7NO2
product | Ethyl 5-phenyl-imidazo(1,5-a)quinoline-3-carboxylate | C1(=CC=CC=C1)C1=CC=2N(C3=CC=CC=C13)C=NC2C(=O)OCC | C20H16N2O2
